US09353096B2
(S)-2-(6-Methoxy-pyridine-3-carbonyl)-morpholine-4-carboxylic acid tert-butyl ester (305 mg, 0.95 mmol) was dissolved in methanol (5 mL) and cooled to 0° C. Sodium borohydride (36 mg, 0.95 mmol) was added and the resulting reaction mixture was stirred for 2 h at room temperature before pouring onto NaHCO3 and extracting 3 times with ethyl acetate. The combined organic phase was washed with brine, dried over MgSO4, filtered and concentrated to afford (S)-2-[hydroxy-(6-methoxy-pyridin-3-yl)-methyl]-morpholine-4-carboxylic acid tert-butyl ester (295 mg, 96%) as a colorless solid.

reactant | (S)-2-(6-Methoxy-pyridine-3-carbonyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.95 mmol, 305 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(=O)C=1C=NC(=CC1)OC | C16H22N2O5
reactant | Sodium borohydride | 0.95 mmol, 36 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (S)-2-[hydroxy-(6-methoxy-pyridin-3-yl)-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 295 mg, 96% | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(C=1C=NC(=CC1)OC)O | C16H24N2O5
